US05455258
A heterogeneous mixture of 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-1-[benzyl]-4-[carbomethoxy]-piperidine (1.2 g, 2.26 mmol) in 50% aqueous sodium hydroxide (10 mL) and methanol (50 mL) is heated to reflux for 16 hours. The methanol is evaporated and the residue is neutralized with 4N hydrochloric acid. The aqueous solution is extracted with ethyl acetate. The combined organic extracts are dried (NaSO4) and the solvent is evaporated to give 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-1-[benzyl]-4-[carboxy]piperidine.

reactant | 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-1-[benzyl]-4-[carbomethoxy]-piperidine | 2.26 mmol, 1.2 g | COC1=CC=C(C=C1)S(=O)(=O)N(C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OC)CC1=CC=CC=C1 | C28H32N2O5S
solvent | sodium hydroxide | 10 mL | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 4-[[4-methoxybenzenesulfonyl](benzyl)amino]-1-[benzyl]-4-[carboxy]piperidine | COC1=CC=C(C=C1)S(=O)(=O)N(C1(CCN(CC1)CC1=CC=CC=C1)C(=O)O)CC1=CC=CC=C1 | C27H30N2O5S
